US05177089
(E)-4-(4-(1,2-dihydro-2-oxo-1-pyridyl)phenyl)-3-butenoic acid
3.00 g of 4-(1,2-dihydro-2-oxo-l-pyridyl)benzaldehyde and 6.15 of β-carboxyethyltriphenyl phosphonium chloride were suspended into 30 ml of tetrahydrofuran, cooled to -50° C. and stirred. 20 ml of a tetrahydrofuran solution of 3.72 g of potassium-tert-butoxide was dropped and the temperature was gradually raised to 0° C. After 10 hours, iced water was added and the aqueous layer was washed with ether. The aqueous layer was adjusted to about pH 3 with concentrated hydrochloric acid, and deposited crystals were collected by filtration to obtain 2.96 g of the above-captioned compound as pale brown yellow powder (yield: 77%).

reactant | 4-(1,2-dihydro-2-oxo-l-pyridyl)benzaldehyde | 3.00 g | O=C1N(C=CC=C1)C1=CC=C(C=O)C=C1 | C12H9NO2
reactant | β-carboxyethyltriphenyl phosphonium chloride | [Cl-].C(=O)(O)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | potassium-tert-butoxide | 3.72 g | CC(C)([O-])C.[K+]
solvent | water | O | H2O
product | (E)-4-(4-(1,2-dihydro-2-oxo-1-pyridyl)phenyl)-3-butenoic acid | 2.96 g, yield: 77% | O=C1N(C=CC=C1)C1=CC=C(C=C1)/C=C/CC(=O)O | C15H13NO3
